US06509361B1
Step 4: Preparation of 2-Chloro-4-[1-(3-fluorophenyl)-3-methyl-1H-pyrazol-5yl]pyridine:
To a mixture of 1-(2-chloroisonicotinyl)-1,3-butanedione (1.35 g, 0.068 mol) and 3-fluorophenylhydrazine hydrochloride (1.33 g, 0.0082 mol) in ethanol (40 mL) was added ammonium hydroxide (0.96 mL, 0.0082 mol) dropwise. The reaction mixture was heated at reflux overnight. The solvent was removed and the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and the crude was purified by chromatography on silica gel (ethyl acetate/hexane, 2:8) to give 1.54 g (79% yield) of product as a yellow oil: Anal. Calcd. for C15H11ClFN3: C, 62.62; H, 3.85; N, 14.60. Found: C, 62.34; H, 3.88; N, 14.30.

reactant | 1-(2-chloroisonicotinyl)-1,3-butanedione | 0.068 mol, 1.35 g | ClC=1C=C(CC(CC(C)=O)=O)C=CN1 | C10H10ClNO2
reactant | 3-fluorophenylhydrazine hydrochloride | 0.0082 mol, 1.33 g | Cl.FC=1C=C(C=CC1)NN
reactant | ammonium hydroxide | 0.0082 mol, 0.96 mL | [OH-].[NH4+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-Chloro-4-[1-(3-fluorophenyl)-3-methyl-1H-pyrazol-5yl]pyridine | 1.54 g, 79% yield | ClC1=NC=CC(=C1)C1=CC(=NN1C1=CC(=CC=C1)F)C | C15H11ClFN3
